US06900215B2
5′-(7-Bromomethylimidazo[1,2-α]pyrimidin-3-yl)-2′-fluorobiphenyl-2-carbonitrile was reacted with the sodium salt of imidazole as described in Example 34 to give 2′-fluoro-5′-[7-(imidazol-1-ylmethyl)imidazo[1,2-α]pyrimidin-3-yl]biphenyl-2-carbonitrile: δH (360 MHz, CDCl3) 5.33 (2H, s), 6.62 (1H, d, J 7), 7.05 (1H, s), 7.15 (1H, s), 7.38-7.43 (1H, m), 7.52-7.73 (6H, m), 7.83 (1H, d, J 7), 7.92 (1H, s), 8.80 (1H, s); m/z (ES+) 395 (M++H).

reactant | 5′-(7-Bromomethylimidazo[1,2-α]pyrimidin-3-yl)-2′-fluorobiphenyl-2-carbonitrile | BrCC1=NC=2N(C=C1)C(=CN2)C=2C=CC(=C(C2)C=2C(=CC=CC2)C#N)F | C20H12BrFN4
reactant | sodium | [Na] | Na
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 2′-fluoro-5′-[7-(imidazol-1-ylmethyl)imidazo[1,2-α]pyrimidin-3-yl]biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)CN2C=NC=C2)C=2C(=CC=CC2)C#N | C23H15FN6
